* Schematics Netlist *



C_C9         $N_0001 $N_0002  47n  
C_C8         $N_0002 $N_0003  220u  
C_C5         $N_0004 $N_0005  100n  
C_C6         0 $N_0006  1n  
R_R2         0 $N_0001  10  
R_R6         0 $N_0007  1g  
R_R4         $N_0004 $N_0008  22k  
V_V27         $N_0005 0  
+SIN 0 10mv 1000 0 0 0
X_U2         $N_0009 0 $N_0006 0 $N_0002 $N_0010 $N_0007 $N_0011 LM386
R_RV2a         $N_0006 $N_0008  5k  
R_RV2b         0 $N_0006  5k  
C_C7         $N_0009 $N_0011  10u  
V_Bat1         $N_0010 0 9V
R_LS1         0 $N_0003  1.825  
